US06703392B2
1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-pyrimidin-acetic acid ethyl ester
To a white suspension of 1-(4,5-dimethoxybenzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline-hydrochloride (1.65 g, 4.36 mmol) in dry DMF (5 ml), were added triethylamine (1.82 ml, 0.013 mol) and bromo-pyrimidin-acetic acid ethyl ester (1.07 g, 4.36 mmol). The reaction mixture was stirred at reflux under argon for 20 h. After cooling, the mixture was diluted in AcOEt and washed with water. The aqueous phase was extracted twice with CH2Cl2, the combined organic phases were dried over anhydrous AcOEt, filtered and concentrated to give a crude brown-orange oil. Flash chromatography (AcOEt) gave 1.4 g (63%) of the title product as a brown-orange oil.

reactant | 1-(4,5-dimethoxybenzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline-hydrochloride | 4.36 mmol, 1.65 g | Cl.COC1=CC=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=C1OC
reactant | triethylamine | 0.013 mol, 1.82 ml | C(C)N(CC)CC | C6H15N
reactant | bromo-pyrimidin-acetic acid ethyl ester | 4.36 mmol, 1.07 g | C(C)OC(CC1=NC=CC(=N1)Br)=O | C8H9BrN2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-pyrimidin-acetic acid ethyl ester | 1.4 g, 63% | C(C)OC(CC1N(C=CC=N1)C1C(C2=CC(=C(C=C2CC1)OC)OC)CC1=CC(=C(C=C1)OC)OC)=O | C29H36N2O6
